US06846834B2
6.1c Preparation of (S)-(−)-1-Methyl-2-piperidinemethanol ((S)-d)
Compound (S)-(−)-6 was prepared from carbazide (S)-d and aldehyde C (prepared from 6-chloro-5-iodo-isatin by Method I and Method A) by the procedure described in Example 5. 1H NMR (DMSO-d6) δ 1.10-1.30 (m, 2H), 1.49 (m, 3H), 1.64 (m, 1H), 2.09 (t, 1H), 2.38 (s, 1H), 2.41 (s, 3H), 2.83 (d, 1H), 3.00 (dd, 2H), 3.23 (dd, 2H), 4.13 (s, 3H), 4.18 (q, 1H), 4.31 (q, 1H), 6.90 (s, 1H), 7.30 (s, 1H), 7.85 (s, 1H), 8.04 (s, 1H), 8.14 (s, 1H), 8.38 (s, 1H), 8.41 (s, 1H), 8.45 (s, 1H). ESI-MS m/z 493.2 (100, M+H).

reactant | carbazide | NNC(=O)NN | CH6N4O
reactant | 6-chloro-5-iodo-isatin | ClC1=C(C=C2C(C(NC2=C1)=O)=O)I | C8H3ClINO2
product | (S)-(−)-1-Methyl-2-piperidinemethanol | CN1[C@@H](CCCC1)CO | C7H15NO
